2196-02-16 07:45:00 Physician Resident Progress Note
Chief Complaint: Fall, Intubated
   24 Hour Events:
 INVASIVE VENTILATION - START [**2196-2-15**] 07:32 PM
   History obtained from Family / [**Hospital 75**] Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-2-16**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2196-2-16**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-2-16**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 60 (60 - 76) bpm
   BP: 150/44(71) {124/41(63) - 150/58(80)} mmHg
   RR: 23 (15 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    432 mL
                                                                    666 mL
   PO:
             TF:
   IVF:
                                                                    432 mL
                                                                    666 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                    870 mL
   Urine:
                                                                    500 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -68 mL
                                                                   -204 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 365 (314 - 377) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 73
   PIP: 6 cmH2O
   SpO2: 100%
   ABG: 7.38/45/46/27/0
   Ve: 7.7 L/min
   PaO2 / FiO2: 115
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin
   Eyes / Conjunctiva: pinpoint pupils
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, No(t) NG tube, No(t) OG tube, abrasion above left eye
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting
   Skin:  Warm, diffuse ecchymosis on arms
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   179 K/uL
   11.2 g/dL
   106 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.1 mEq/L
   9 mg/dL
   109 mEq/L
   142 mEq/L
   31.0 %
   7.6 K/uL
        [image002.jpg]
                             [**2196-2-15**]  09:15 PM
                             [**2196-2-15**]  09:44 PM
                             [**2196-2-15**]  10:06 PM
                             [**2196-2-16**]  03:41 AM
                             [**2196-2-16**]  05:05 AM
   WBC
   9.3
   7.6
   Hct
   33.0
   31.0
   Plt
   197
   179
   Cr
   0.6
   0.5
   TropT
   0.02
   0.04
   TCO2
   30
   29
   28
   Glucose
   101
   106
   Other labs: PT / PTT / INR:11.7/22.3/1.0, CK / CKMB /
   Troponin-T:631/8/0.04, Lactic Acid:1.5 mmol/L, Ca++:7.9 mg/dL, Mg++:1.6
   mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FALL(S)
 IMPAIRED SKIN INTEGRITY
   89 F with h/o of HTN, hyperlipidemia and syncope who was brought to the
   ED after a witnessed fall where her head struck the ground.  Pt was
   intubated in the ED for altered mental status so that a thorough
   work-up could be conducted.  Head CT was negative and patients labs
   were by-in-large unremarkable.  She did have a mildly elevated lactate
   and acidemia that were attributed to the fact that she was violently
   thrashing around prior to sedation and intubation.  With gentle fluids
   and time, her lactate has come back down.  The patient's history was
   obtained from her son who reports that she falls quite frequently.  She
   is normally seen at [**Hospital6 5579**].  Syncope work-ups have been
   unrevealing to date.
   .
   Altered Mental Status - Son reports that patient fully mentally
   competent at baseline with only mild senility.  Etiologies of agitation
   and alteration today could include trauma [**1-11**] fall, toxic metabolic,
   infection or delirium.  Head CT negative for acute bleed.  Pt had
   mildly elevated white blood cell count on admission, however, trended
   down to normal with gently fluids.  CXR and UA negative for occult
   infection.
   - blood cx is spikes
   - no antibiotics for now in absence of signs of infection
   - decrease sedation and extubate in am
   - check B12, Thiamine and Folate, then replete
   - f/u urine cx
   - if agitated once extubated, consider Haldol only as needed
   - clear c-spine once awake and extubated, with a negative CT scan, low
   risk for ligamentous injury given mechanism of fall
   .
   Syncope/Fall - Per report, pt lost consciousness before she fell.  Per
   son and friend, she falls often in the setting of a loss of
   consciousness.  Etiologies include vaso-vagal, orthostatic hypotension,
   MI, or other neurologic cause such as seizure, TIA, etc.  Extensive
   work-up at [**Hospital3 **] over the years has been unrevealing.  Blood
   glucose 156 in field. Pt had ECHO in [**Month (only) 25**] but report is not
   available in [**Hospital3 140**] records.  No evidence of arrhthymia on EKG,
   cardiac enzymes negative x1.  Per [**Hospital3 140**] notes, on B-Blocker to
   facilitate beta 2-receptor blockade and assist with some possible
   neurogenic causes of her symptoms.  Per son's report, pt does not drink
   anything but coffee that he is aware of and is often light-headed when
   she stands up.  BBlocker and/or CCB could be contributing to
   hypotension and or bradyarrhythmia
   - Check B12, Thimaine and Folate, then replete
   - ROMI, cardiac enzymes negative x1
   - consider carotid dopplers
   - continue gently volume resuscitation
   - hold BBlocker and calcium channel blocker for now
   - XRs negative
   .
   Resp Failure
 Intubated in setting of altered MS. [**Name13 (STitle) **] acute pulmonary
   issues. On minimal settings.
   - Plan to extubate this AM if following commands off sedation
   .
   Elevated Lactate - Differential includes infection versus muscle
   exertion in setting of extreme agitation and combativeness.  Likely due
   to the latter.  With time and gentle fluids acidemia and elevated
   lactate have resolved.
   - normalized lactate by AM
   .
   Elevated troponin
 Trop is still in indeterminate range but has
   trended up from <0.01 to 0.04 this AM. CK also trending up but MD flat.
   - Repeat EKG
   - Cycle enzymes until trajectory is evident
   - Fluids for CKs
   .
   Hypertension - on HCTZ and amlodipine
   - will hold for now
   .
   Hyperlipidemia - on lescol at home
   - will restart when extubated
   .
   FEN - NPO, gentle fluids, replete lytes, replete B12, thiamine and
   folate
   .
   Proph - Heparin sq, VAP bundle, pneumoboots, PT/OT consult once
   extubated
   .
   Code Status - Full Code
   .
   Contact - [**Name (NI) **], [**Name (NI) **] [**Name (NI) 2366**] [**Telephone/Fax (1) 6201**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2196-2-15**] 07:38 PM
   18 Gauge - [**2196-2-15**] 07:39 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor once extubated

2196-02-17 07:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2196-2-16**] 11:54 AM
 ULTRASOUND - At [**2196-2-16**] 03:10 PM
   Carotid Ultra Sound
 CALLED OUT
   - Successfully extubated
   - Called out to floor but then developed new hypoxia to mid-80s
   - CXR with increased L lung opacity, poor cough and minimal gag, also
   worsened leukocytosis
   - Started Levofloxacin for CAP
   Allergies:
   Coumadin (Oral) (Warfarin Sodium)
   rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2196-2-16**] 11:51 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-2-17**] 01:00 AM
   Heparin Sodium (Prophylaxis) - [**2196-2-17**] 07:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-2-17**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37
C (98.6
   HR: 73 (63 - 86) bpm
   BP: 120/47(66) {104/36(56) - 152/50(75)} mmHg
   RR: 22 (15 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,403 mL
                                                                  1,185 mL
   PO:
             TF:
   IVF:
                                                                  1,403 mL
                                                                  1,185 mL
   Blood products:
   Total out:
                                                                  1,708 mL
                                                                    285 mL
   Urine:
                                                                  1,683 mL
                                                                    285 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                   -305 mL
                                                                    900 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 288 (288 - 288) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 0 cmH2O
   FiO2: 35%
   PIP: 5 cmH2O
   SpO2: 97%
   ABG: ///27/
   Ve: 6.4 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm, diffuse ecchymosis
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): ,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   157 K/uL
   10.3 g/dL
   89 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.3 mEq/L
   6 mg/dL
   110 mEq/L
   143 mEq/L
   29.9 %
   6.8 K/uL
        [image002.jpg]
                             [**2196-2-15**]  09:15 PM
                             [**2196-2-15**]  09:44 PM
                             [**2196-2-15**]  10:06 PM
                             [**2196-2-16**]  03:41 AM
                             [**2196-2-16**]  05:05 AM
                             [**2196-2-16**]  12:08 PM
                             [**2196-2-16**]  07:16 PM
                             [**2196-2-17**]  03:54 AM
   WBC
   9.3
   7.6
   9.0
   6.8
   Hct
   33.0
   31.0
   33.1
   29.9
   Plt
   197
   179
   183
   157
   Cr
   0.6
   0.5
   0.5
   0.5
   TropT
   0.02
   0.04
   0.03
   TCO2
   30
   29
   28
   Glucose
   101
   106
   103
   89
   Other labs: PT / PTT / INR:11.7/22.3/1.0, CK / CKMB /
   Troponin-T:596/8/0.03, ALT / AST:118/156, Alk Phos / T Bili:85/0.4,
   Lactic Acid:1.5 mmol/L, Albumin:3.5 g/dL, Ca++:7.4 mg/dL, Mg++:1.5
   mg/dL, PO4:2.8 mg/dL
   Imaging: Carotid Dopplers -
   Assessment and Plan
 ALTERATION IN NUTRITION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FALL(S)
 IMPAIRED SKIN INTEGRITY
   89 F with h/o of HTN, hyperlipidemia and syncope who was brought to the
   ED after a witnessed fall where her head struck the ground.  Pt was
   intubated in the ED for altered mental status so that a thorough
   work-up could be conducted.  Head CT was negative and patients labs
   were by-in-large unremarkable.  She did have a mildly elevated lactate
   and acidemia that were attributed to the fact that she was violently
   thrashing around prior to sedation and intubation.  With gentle fluids
   and time, her lactate has come back down.  The patient's history was
   obtained from her son who reports that she falls quite frequently.  She
   is normally seen at [**Hospital6 5579**].  Syncope work-ups have been
   unrevealing to date.
   .
   Altered Mental Status - Son reports that patient fully mentally
   competent at baseline with only mild senility.  Etiologies of agitation
   and alteration today could include trauma [**1-11**] fall, toxic metabolic,
   infection or delirium.  Head CT negative for acute bleed.  Pt had
   mildly elevated white blood cell count on admission, however, trended
   down to normal with gently fluids.  CXR and UA negative for occult
   infection.
   - blood cx is spikes
   - no antibiotics for now in absence of signs of infection
   - decrease sedation and extubate in am
   - check B12, Thiamine and Folate, then replete
   - f/u urine cx
   - if agitated once extubated, consider Haldol only as needed
   - clear c-spine once awake and extubated, with a negative CT scan, low
   risk for ligamentous injury given mechanism of fall
   .
   Syncope/Fall - Per report, pt lost consciousness before she fell.  Per
   son and friend, she falls often in the setting of a loss of
   consciousness.  Etiologies include vaso-vagal, orthostatic hypotension,
   MI, or other neurologic cause such as seizure, TIA, etc.  Extensive
   work-up at [**Hospital3 **] over the years has been unrevealing.  Blood
   glucose 156 in field. Pt had ECHO in [**Month (only) 25**] but report is not
   available in [**Hospital3 140**] records.  No evidence of arrhthymia on EKG,
   cardiac enzymes negative x1.  Per [**Hospital3 140**] notes, on B-Blocker to
   facilitate beta 2-receptor blockade and assist with some possible
   neurogenic causes of her symptoms.  Per son's report, pt does not drink
   anything but coffee that he is aware of and is often light-headed when
   she stands up.  BBlocker and/or CCB could be contributing to
   hypotension and or bradyarrhythmia
   - Check B12, Thimaine and Folate, then replete
   - ROMI, cardiac enzymes negative x1
   - consider carotid dopplers
   - continue gently volume resuscitation
   - hold BBlocker and calcium channel blocker for now
   - XRs negative
   .
   Resp Failure
 Intubated in setting of altered MS. [**Name13 (STitle) **] acute pulmonary
   issues. On minimal settings.
   - Plan to extubate this AM if following commands off sedation
   .
   Elevated Lactate - Differential includes infection versus muscle
   exertion in setting of extreme agitation and combativeness.  Likely due
   to the latter.  With time and gentle fluids acidemia and elevated
   lactate have resolved.
   - normalized lactate by AM
   .
   Elevated troponin
 Trop is still in indeterminate range but has
   trended up from <0.01 to 0.04 this AM. CK also trending up but MD flat.
   - Repeat EKG
   - Cycle enzymes until trajectory is evident
   - Fluids for CKs
   .
   Hypertension - on HCTZ and amlodipine
   - will hold for now
   .
   Hyperlipidemia - on lescol at home
   - will restart when extubated
   .
   FEN - NPO, gentle fluids, replete lytes, replete B12, thiamine and
   folate
   .
   Proph - Heparin sq, VAP bundle, pneumoboots, PT/OT consult once
   extubated
   .
   Code Status - Full Code
   .
   Contact - [**Name (NI) **], [**Name (NI) **] [**Name (NI) 2366**] [**Telephone/Fax (1) 6201**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2196-2-15**] 07:38 PM
   18 Gauge - [**2196-2-15**] 07:39 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor once extubated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2196-2-15**] 07:39 PM
   20 Gauge - [**2196-2-17**] 06:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2196-02-17 11:47:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Called out to floor, became hypoxic to mid 80s on RA, started on
   levofloxacin, now on 4L.
 INVASIVE VENTILATION - STOP [**2196-2-16**] 11:54 AM
 ULTRASOUND - At [**2196-2-16**] 03:10 PM
   Carotid Ultra Sound
 CALLED OUT
   Allergies:
   Coumadin (Oral) (Warfarin Sodium)
   rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2196-2-16**] 11:51 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-2-17**] 01:00 AM
   Heparin Sodium (Prophylaxis) - [**2196-2-17**] 07:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-2-17**] 11:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.2
C (99
   HR: 70 (63 - 86) bpm
   BP: 143/51(74) {104/36(56) - 143/51(74)} mmHg
   RR: 20 (15 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,403 mL
                                                                  1,750 mL
   PO:
             TF:
   IVF:
                                                                  1,403 mL
                                                                  1,750 mL
   Blood products:
   Total out:
                                                                  1,708 mL
                                                                    285 mL
   Urine:
                                                                  1,683 mL
                                                                    285 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                   -305 mL
                                                                  1,465 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: diffusely)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   157 K/uL
   89 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.3 mEq/L
   6 mg/dL
   110 mEq/L
   143 mEq/L
   29.9 %
   6.8 K/uL
        [image002.jpg]
                             [**2196-2-15**]  09:15 PM
                             [**2196-2-15**]  09:44 PM
                             [**2196-2-15**]  10:06 PM
                             [**2196-2-16**]  03:41 AM
                             [**2196-2-16**]  05:05 AM
                             [**2196-2-16**]  12:08 PM
                             [**2196-2-16**]  07:16 PM
                             [**2196-2-17**]  03:54 AM
   WBC
   9.3
   7.6
   9.0
   6.8
   Hct
   33.0
   31.0
   33.1
   29.9
   Plt
   197
   179
   183
   157
   Cr
   0.6
   0.5
   0.5
   0.5
   TropT
   0.02
   0.04
   0.03
   TCO2
   30
   29
   28
   Glucose
   101
   106
   103
   89
   Other labs: PT / PTT / INR:11.7/22.3/1.0, CK / CKMB /
   Troponin-T:596/8/0.03, ALT / AST:118/156, Alk Phos / T Bili:85/0.4,
   Lactic Acid:1.5 mmol/L, Albumin:3.5 g/dL, Ca++:7.4 mg/dL, Mg++:1.5
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FALL(S)
 IMPAIRED SKIN INTEGRITY
   1. Resp failure: Appears to have aspiration PNA in RLL
   -levofloxacin for now
   -swallow eval
   -cont. O2 NC
   -advair 250/50 [**Hospital1 **]
   -spireva
   2. Syncope: Extensive neg w/u
   3. htn: Home meds being held
   4. FEN: modify diet according to swallow eval
   5. PT/OT consult
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2196-2-15**] 07:39 PM
   20 Gauge - [**2196-2-17**] 06:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   ------ Protected Section ------
   89 year old female with recurrent syncope presented after fall/syncope
   and intubated because agitated and needed emergent HCT/neck CT scan
   extubated and was slotted to go to the floor yesterday but developed
   hypoxia and right lower infiltrate consistent with pneumonia
   PE: T 100.3  P 82  121/43  Sat 95 on 3.5 liters NC
   Intubated/sedated
   Decreased BS on right
   S1 S2 reg
   Soft NT ND
   No edema
   A:
   1)       Fall/syncope
   2)       Pneumonia
 likely an aspiration pneumonitis
   Plan:
   1)       Can go to the floor
   2)       Will give antibiotics for pneumonia although this may be
   pneumonitis rather than actual pneumonia
   Time: 25 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 1526**], MD
   on:[**2196-2-17**] 06:09 PM ------